### PR TITLE
Allegory morphisms

### PR DESCRIPTION
**Pull request by TOTBWF**
# Description

This PR defines a bunch of different types of morphisms in allegories, and also adds some reasoning combinators for allegories.

## Note

`is-cotransitive` is somewhat of an evil name, but it's more fitting than what cotransitivity normally refers to.

### CODE REVIEW

File: src/Cat/Allegory/Morphism.lagda.md [hunk 1]
```diff
@@ -0,0 +1,506 @@
...
+  → g ∘ f ≤ f ∘ g
+  → is-symmetric (f ∘ g)
+symmetric-∘ {f = f} {g = g} f-sym g-sym w =
+  f ∘ g     ≤⟨ f-sym ◆ g-sym ⟩
+  f † ∘ g † =⟨ sym dual-∘ ⟩
+  (g ∘ f) † ≤⟨ dual-≤ w ⟩
+  (f ∘ g) † ≤∎
+```
+
+The dual of a symmetric morphisms is symmetric.
```
Comment (plt-amy) [inline src/Cat/Allegory/Morphism.lagda.md:117]: morphism

File: src/Cat/Allegory/Morphism.lagda.md [hunk 2]
```diff
@@ -0,0 +1,506 @@
...
+
+```agda
+symmetric-∩ : is-symmetric f → is-symmetric g → is-symmetric (f ∩ g)
+symmetric-∩ {f = f} {g = g} f-sym g-sym =
+  f ∩ g     ≤⟨ ∩-pres f-sym g-sym ⟩
+  f † ∩ g † =⟨ sym $ dual-∩ A ⟩
+  (f ∩ g) † ≤∎
+```
+
+If $f$ is symmetric, then it is equal to it's dual.
```
Comment (plt-amy) [inline src/Cat/Allegory/Morphism.lagda.md:137]: its

File: src/Cat/Allegory/Morphism.lagda.md [hunk 3]
```diff
@@ -0,0 +1,506 @@
...
+  → g ∘ f ≤ f ∘ g
+  → is-transitive (f ∘ g)
+transitive-∘ {f = f} {g = g} f-trans g-trans w =
+  (f ∘ g) ∘ (f ∘ g) ≤⟨ ≤-extend-inner w ⟩
+  (f ∘ f) ∘ (g ∘ g)   ≤⟨ f-trans ◆ g-trans ⟩
+  f ∘ g             ≤∎
+```
+
+A useful little lemma is that if $f$ is transitive, then
+$(f \cap g) \circ (f \cap h) = f$.
```
Comment (plt-amy) [inline src/Cat/Allegory/Morphism.lagda.md:177]: The text says = but the code proves ≤?

File: src/Cat/Allegory/Morphism.lagda.md [hunk 4]
```diff
@@ -0,0 +1,506 @@
...
+morphisms is transitive.
+
+```agda
+transitive-∩
+  : is-transitive f → is-transitive g → is-transitive (f ∩ g)
+transitive-∩ {f = f} {g = g} f-trans g-trans =
+  ∩-univ (transitive-∩l f-trans) (transitive-∩r g-trans)
+```
+
+If $f$ is transitive, then so is it's dual.
```
Comment (plt-amy) [inline src/Cat/Allegory/Morphism.lagda.md:197]: its

File: src/Cat/Allegory/Morphism.lagda.md [hunk 5]
```diff
@@ -0,0 +1,506 @@
...
+
+coreflexive→symmetric
+  : is-coreflexive f → is-symmetric f
+coreflexive→symmetric {f = f} f-corefl =
+  f             ≤⟨ ≤-conj f ⟩
+  f ∘ f † ∘ f   ≤⟨ f-corefl ◆ ≤-refl ◆ f-corefl ⟩
+  id ∘ f † ∘ id =⟨ idl _ ∙ idr _ ⟩
+  f † ≤∎
+```
+Furthermore, composition of coreflexive morphisms is equivalent to
```
Comment (plt-amy) [inline src/Cat/Allegory/Morphism.lagda.md:358]: might be worth pointing out this only applies to endos which are core?

**Review by plt-amy — CHANGES_REQUESTED** [review]

File: src/Cat/Allegory/Morphism.lagda.md (hunk 5 above)
Comment (plt-amy) [reply src/Cat/Allegory/Morphism.lagda.md:358]: nvm my brain was off

**Review by plt-amy — APPROVED** [review]
